US05770595
This example illustrates a synthesis for inventive compound no. 351 3. To a suspension of magnesium (1.86 g, 77.2 mmol) and a crystal of iodine in THF (20 ml) was added 10-undecenyl bromide (6.00 g, 25.8 mmol) in THF (14 m) over 40 minutes and the reaction stirred for a further 30 minutes after completion of the addition. The solution was added via a canula over 50 minutes to a suspension of copper iodide (0.50 g, 2.58 mmol) and 1-bromo-3-chloropropane (3.84 ml, 38.7 mmol) in THF (20 ml) and stirred at 25° C. for 16 hours. Sulfuric acid (1.0 M, 50 ml) was added, extracted with diethyl ether (2×60 ml) and the organic solvent was dried over magnesium sulfate and subsequently evaporated The residue was distilled at 0.25 mmHg, producing 3.06 g of 13-tetradecenyl chloride as a colorless liquid (51% yield, b.p. 98°-100° C.).

reactant | magnesium | 77.2 mmol, 1.86 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 10-undecenyl bromide | 25.8 mmol, 6.00 g | C(CCCCCCCCC=C)Br | C11H21Br
reactant | 1-bromo-3-chloropropane | 38.7 mmol, 3.84 ml | BrCCCCl | C3H6BrCl
reactant | Sulfuric acid | 1.0 M, 50 ml | S(O)(O)(=O)=O | H2O4S
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | copper iodide | 2.58 mmol, 0.50 g | [Cu](I)I
product | 13-tetradecenyl chloride | 3.06 g, 51% yield | C(CCCCCCCCCCCC=C)Cl | C14H27Cl
